US05120738
Preparation of p-Oleoylaminoaniline
Oleic acid (2.82 g) and p-phenylenediamine (1.62 g) were reacted in the same manner as in Reference Example 11 to obtain 2.85 g of the objective compound (yield: 77%).

reactant | Oleic acid | 2.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | p-phenylenediamine | 1.62 g | C1=CC(=CC=C1N)N | C6H8N2
product | p-Oleoylaminoaniline | 2.85 g, yield: 77% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=CC=C(N)C=C1 | C24H40N2O
